US05962458
Sodium hydride (3.3 g of a 50% suspension in mineral oil, 69 mmol) was added to a solution of 4-mercaptopyridine (8.12 g, 73 mmol) in DMF (100 ml) and the mixture stirred for 30 minutes. 7-Fluoro-3,4-dihydroquinazolin-4-one (1.5 g, 9 mmol) was added and the reaction heated at 100° C. for 4 hours. The mixture was allowed to cool, diluted with water and extracted with ethyl acetate. The organic extracts were washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (97/3) to give 7-(4-pyridylthio)-3,4-dihydroquinazolin-4-one (500 mg, 6%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-mercaptopyridine | 73 mmol, 8.12 g | SC1=CC=NC=C1 | C5H5NS
reactant | 7-Fluoro-3,4-dihydroquinazolin-4-one | 9 mmol, 1.5 g | FC1=CC=C2C(NC=NC2=C1)=O | C8H5FN2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(4-pyridylthio)-3,4-dihydroquinazolin-4-one | 500 mg, 6% | N1=CC=C(C=C1)SC1=CC=C2C(NC=NC2=C1)=O | C13H9N3OS
